US09388173B2
Step 4: 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)amino)propan-2-ol
To a solution of 1-((4-bromopyridin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl) propan-2-ol (12.0 g, 33.1 mmol) in dioxane (50 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (10.0 g, 39.7 mmol), KOAc (6.5 g, 66.2 mmol) and Pd(dppf)Cl2 (1.0 g, 1.5 mmol). The mixture was heated at reflux temperature for 16 h under an N2 atmosphere. The reaction mixture was then filtered and the filtrate concentrated. The residue was then washed with water (20 mL) and extracted with EtOAc (3×20 mL). The organic layer was dried and concentrated to give the desired product (14.0 g, 103.7%) which was used in next step without further purification. LCMS (m/z): 410.1 [M+H].

reactant | 1-((4-bromopyridin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl) propan-2-ol | 33.1 mmol, 12.0 g | BrC1=CC(=NC=C1)NCC(CN1CC2=CC=CC=C2CC1)O | C17H20BrN3O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 39.7 mmol, 10.0 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 66.2 mmol, 6.5 g | CC(=O)[O-].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.5 mmol, 1.0 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)amino)propan-2-ol | 14.0 g, 103.7% | C1N(CCC2=CC=CC=C12)CC(CNC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C23H32BN3O3
